US08541457B2
Synthesis of 2-(3,4-Dichlorobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use 3,4-dichlorobenzoyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 15% yield; m.p. 212-214° C.; 1H NMR (CD3OD, 300 MHz) δ 8.21 (d, J=2.0 Hz, 1H), 7.93 (dd, J=2.0, 8.4 Hz, 1H), 7.68 (d, J=8.4 Hz, 1H), 7.33-7.23 (m, 5H), 4.50 (s, 2H), 2.54 (s, 3H); MS (ES+) m/z 420.0 (M+1).

reactant | 3,4-dichlorobenzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 2-(3,4-Dichlorobenzoylamino)-4-methylthiazole-5-carboxylic Acid Benzylamide | 15% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=CC(=C(C=C1)Cl)Cl)=O)C | C19H15Cl2N3O2S
